Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
ACE Inhibitors
 
Attending: ___.
 
Chief Complaint:
Abdominal pain, nausea, vomiting
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ male with h/o HTN, HLD, prior cholecystectomy, s/p
EUS/FNB of pancreas on ___ who presents with about 1 week of
constant abdominal pain and nausea without vomiting. Abdominal
pain is diffuse, b/l upper quadrant radiates around to right
lower back. Denies fevers, chills, chest pain, dysuria,
hematuria. Has some shortness of breath only when his pain is
bad- per ___ MD. ___ does not report this shortness of breath to
me. ___ has been in contact with gastroenterologist (who referred
him here today), and had outpatient MRI today raising concern 
for
pancreatitis, likely related to his recent procedure. Patient 
has
been taking ibuprofen and Tylenol at home with minimal relief. 
___
has never experienced this type of pain before. Pain not 
worsened
by eating. ___ has lost 4 lbs. No medication changers. No foreign
travel. ___ was supposed to travel to ___ on ___ but
cancelled his plans when ___ developed abdominal pain. 
.
In the ___: 
On exam, patient appears well. ___ has diffuse abdominal
tenderness to palpation without rebound or guarding.
.
Labs notable for elevated LFTs, lipase 1512, consistent with
pancreatitis. Plan was for pt to receive IV fluids and IV pain
medications
.
In ER: (Triage Vitals: ) 
9 |98.1 |100 |140/100 |16 |97% RA |
Fluids given: NS x 2 L
Meds Given: zofran and morphine IV
Radiology Studies: CXR
consults called: None

 
Past Medical History:
Gouty arthropathy 
Hematuria, unspecified 
Esophageal reflux 
Generalized osteoarthrosis, involving multiple sites 
Elevated prostate specific antigen (PSA) 
Allergic rhinitis 
Nephrolithiasis, uric acid 
Renal cell carcinoma 
Hypertension, essential 
Hypercholesterolemia 
SOB (shortness of breath) 
Hepatitis C antibody test positive 
Elevated ferritin 
Uncontrolled type 2 diabetes mellitus with microalbuminuria,
without long-term current use of insulin 
Controlled type 2 diabetes mellitus with microalbuminuria,
without long-term current use of insulin 
Pancreatic mass 

 
Social History:
___
Family History:
Father died after a fall at age ___. ___ does not remember what 
his
mother died of.
 
Physical Exam:
ADMISSION
Vitals: ___ 0234 Temp: 97.8 PO BP: 136/81 HR: 75 RR: 18 O2
sat: 95% O2 delivery: RA 
___ 0340 FSBG: 146 
CONS: NAD, comfortable appearing  
HEENT: ncat anicteric MMM    
CV: s1s2 rr no m/r/g  
RESP: b/l ae no w/c/r  
GI: +bs, soft, b/l periumbilical tenderness without rebound  
back:  No spinal tenderness
GU:  No foley, no CVAT b/l
MSK:no c/c/e 2+pulses  
SKIN: no rash  
NEURO: face symmetric speech fluent  
PSYCH: calm, cooperative 

DISCHARGE
97.9 PO 121 / 76 83 18 97 RA 
CONS: NAD, comfortable appearing, walking around room
HEENT: ncat anicteric MMM    
CV: s1s2 rr no m/r/g  
RESP: b/l ae no w/c/r  
GI: +bs, soft, no tenderness on abdominal exam
back:  No spinal tenderness
GU:  No foley, no CVAT b/l
MSK: no c/c/e 2+ pulses  
SKIN: no rash  
NEURO: face symmetric speech fluent  
PSYCH: calm, cooperative 
 
Pertinent Results:
ADMISSION

___ 08:41PM BLOOD WBC-13.1* RBC-4.85 Hgb-13.8 Hct-40.8 
MCV-84 MCH-28.5 MCHC-33.8 RDW-12.0 RDWSD-36.2 Plt ___
___ 11:57PM BLOOD ___ PTT-36.6* ___
___ 08:41PM BLOOD Glucose-271* UreaN-23* Creat-1.2 Na-132* 
K-4.6 Cl-96 HCO3-20* AnGap-16
___ 08:41PM BLOOD ALT-181* AST-167* AlkPhos-231* 
TotBili-1.3 DirBili-0.6* IndBili-0.7
___ 08:41PM BLOOD Albumin-3.8

DISCHARGE

___ 06:42AM BLOOD WBC-11.1* RBC-5.03 Hgb-14.3 Hct-42.9 
MCV-85 MCH-28.4 MCHC-33.3 RDW-12.1 RDWSD-37.6 Plt ___
___ 06:42AM BLOOD ___ PTT-35.3 ___
___ 06:42AM BLOOD Glucose-125* UreaN-15 Creat-1.1 Na-138 
K-4.8 Cl-97 HCO3-21* AnGap-20*
___ 06:42AM BLOOD ALT-103* AST-39 AlkPhos-210* TotBili-0.9
___ 06:42AM BLOOD Calcium-9.2 Phos-3.5 Mg-1.9

 
MRI findings from ___ from outside: 

-Focal hemorrhagic fluid collection with small foci of air 
within
a fatty lesion of pancreatic head.
-Peripancreatic inflammatory changes. Non enchancing fluid
collection in pancreatico-duodenal groove. Duodenal wall
thickening and enhancement. This may represent post biopsy 
change
vs groove pancreatitis vs autoimmune pancreatitis.
-Fatty lesion in body- like lipoma vs low grade liposarcoma-
follow up is advised. 
-Post cholecystectomy
-Renal cyst

Pancreas:
-There is a 4 cm in AP and 6 cm in transverse dimension, focal 
T2
hyperintense hemorrhagic fluid collecttion identified within the
pancreatic head. There is an area of T1 hyperintense fatty 
signa,
non enhancing with gadolinium, surroounding the heorrhagic fluid
collection in total measuring 5.8 in AP and 6.1 cm in transverse
dimension. There is also non enhancing fliid extending in a 
sheet
like fashion along the pancreaticoduodenal groove into precaval
space measuring 4.5 cm x 2.8 cm. There is mass effect seen upon
the second part of duodendum which is thickened and enhancing.
There are small cystic areas demonstrated within the wall of
duodednum. There is mild peripancreatic inflammatory change seen
surrounding the pancreatic head. There is normal enhancement of
the pancreatic body and tail which maintains a normal caliber. 

Liver is normal in size and contour, Multiple small areas of
peripheral arterial enhancement within R lobe of liver and
posterior margin of medial left lobe of liver. Probably reflect
transient perfusional defects.

Prior cholecystectomy. CBD meaures 9 mm and abruptly tapers into
a pancreatic head collection. No filling defects are seen. No
pancreatic ductal irregularity or dilation is identified. The
main pD is 2 mm in width and abruptly tapers into the pancreatic
head/body collection. 

Few small peripancreatic lymph nodes measuring 9 mm in greatest
transverse dimension probably reactive. No ascites is seen. 

 
Brief Hospital Course:
#Acute pancreatitis
#?post-procedural hematoma
s/p EUS/FNB of pancreas on ___. ERCP team discussed ___ MRI 
findings with patient's daughter ___ and reported the 
findings on MRI and recommended ___ visit and further care. 
Lipase 1512. In the hospital, the patient was treated with IV 
fluids, Tylenol and oxycodone for pain control and initially 
kept NPO on the first day of admission. By the second day of 
admission, his pain was significantly better and ___ was able to 
tolerate first clears and then a regular diet without worsening 
pain or nausea. ___ felt comfortable walking around the hallway 
and ready to go home. Vitals were stable, H/H stable at 
14.3/42.9 on discharge. Initial mild transaminitis downtrended 
by second day of admission. Discussed with ___ and felt that 
discharge was reasonable as they did not plan any further 
evaluation while inpatient. His case will be discussed by ___ 
interdisciplinary rounds tomorrow and the ___ team will notify 
him should ___ need to have further evaluation. Discussed with 
him the indications for re-presenting for care, including 
worsening of abdominal pain, N/V, GI bleeding, 
lightheadedness/dizziness. Discharged with a short course of 
tramadol prn and senna prn.

DIABETES MELIITUS:
-held metformin, ISS and ___ while inpatient

HTN:
-continued home ___

GOUT:
- Continued home allopurinol

BPH:
- Continued home finasteride and tamsulosin

HLD: Held statin given transaminitis, resumed on discharge given 
transaminitis downtrending.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Finasteride 5 mg PO DAILY 
2. Losartan Potassium 50 mg PO DAILY 
3. Allopurinol ___ mg PO DAILY 
4. MetFORMIN (Glucophage) 500 mg PO BID 
5. Tamsulosin 0.4 mg PO QHS 

 
Discharge Medications:
1.  Acetaminophen 500 mg PO Q6H:PRN Pain - Mild 
RX *acetaminophen 500 mg 1 tablet(s) by mouth every 6 hours as 
needed Disp #*30 Tablet Refills:*1 
2.  Senna 8.6 mg PO BID 
RX *sennosides [senna] 8.6 mg 1 tab by mouth twice daily as 
needed Disp #*15 Tablet Refills:*1 
3.  TraMADol 50 mg PO Q6H:PRN Pain - Moderate 
RX *tramadol 50 mg 1 tablet(s) by mouth every 8 hours as needed 
Disp #*10 Tablet Refills:*0 
4.  Allopurinol ___ mg PO DAILY  
5.  Finasteride 5 mg PO DAILY  
6.  Losartan Potassium 50 mg PO DAILY  
7.  MetFORMIN (Glucophage) 500 mg PO BID  
8.  Tamsulosin 0.4 mg PO QHS  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Pancreatitis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,
You were admitted to the hospital with pancreatitis. We treated 
you with IV fluids and pain control and you quickly improved. 

The ERCP team evaluated you and will discuss your case further 
tomorrow ___ during their interdisciplinary rounds. 
They will call you if they want you to have any further 
evaluation.

It was a pleasure taking care of you.

Your ___ team
 
Followup Instructions:
___